US07750068B2
45 parts of C.I. Pigment Yellow 138 (manufactured by BASF “Paliotol Yellow D0960”) was added gradually to 450 parts of 101% sulfuric acid prepared from fuming sulfuric acid (25% SO3) and sulfuric acid, and the mixture was stirred at 80° C. for 3 hours, allowing a sulfonation reaction to proceed. The reaction solution was poured into 5,000 parts of ice water, and the precipitate was filtered, washed with 2,000 parts of 0.1% hydrochloric acid, and additionally with 2,000 parts of purified water, to give a paste of the sulfonated compound of quinophthalone. The water-wet paste was redispersed in 5,000 parts of water, and the dispersion was adjusted to a pH of 11.5 by addition of an aqueous sodium hydroxide solution. The solution was stirred additionally for one hour while the pH of the solution was adjusted by addition of an aqueous sodium hydroxide solution. The reaction solution changed from an yellow suspension to a red solution. The reaction solution was then heated to 60° C. at pH 11.5 and stirred for 3 hours. The solution was then adjusted to a pH of 1 or less by addition of hydrochloric acid and stirred at 90° C. for 2 hours. Precipitate formed was filtered, washed and dried, to give a quinoline derivative [D].

reactant | C.I. Pigment Yellow 138 | C1=CC2=C(C(=C1)N3C(=O)C4=C(C3=O)C(=C(C(=C4Cl)Cl)Cl)Cl)N=C(C=C2)C5C(=O)C6=C(C5=O)C(=C(C(=C6Cl)Cl)Cl)Cl | C26H6Cl8N2O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | quinophthalone | C1=CC=C2C(=C1)C=CC(=N2)C3C(=O)C4=CC=CC=C4C3=O | C18H11NO2
